US04045439
Benzyl chloroformate (7.5 g.) was added to a stirred solution of ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate (4.66 g.) in pyridine (75 ml.). The solution was stirred for 18 hours at room temperature and for 2 hours at 100° C. The solution was cooled and was poured onto a mixture of ice (500 g.) and 5N-hydrochloric acid (200 ml.). The pale solid which was precipitated was filtered off, washed with water, and recrystallised from a mixture of ethanol and water to give ethyl 6-benzyloxycarbonylamino-4-hydroxycinnolin-3-yl carboxylate, m.p. 250°-252° C.

reactant | Benzyl chloroformate | 7.5 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate | 4.66 g | NC=1C=C2C(=C(N=NC2=CC1)C(=O)OCC)O | C11H11N3O3
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 6-benzyloxycarbonylamino-4-hydroxycinnolin-3-yl carboxylate | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C(=C(N=NC2=CC1)C(=O)OCC)O | C19H17N3O5
